US08110575B2
(2-chloro-pyridin-4-yl)-(4,5-difluoro-2,3-dihydro-indol-1-yl)-methanone
0.50 g (3.2 mmol) 2-chloroisonicotinic acid, 0.63 mg (3.3 mmol) 4,5-difluoroindoline-hydrochloride, 0.91 mL (6.5 mmol) TEA and 1.1 g (3.4 mmol) TBTU in 10 mL DMF were stirred overnight at RT. Then the reaction mixture was poured onto 200 mL of 15% potassium carbonate solution, the precipitate formed was suction filtered, washed with water and dried.

reactant | 2-chloroisonicotinic acid | 3.2 mmol, 0.50 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | 4,5-difluoroindoline-hydrochloride | 3.3 mmol, 0.63 mg | Cl.FC1=C2CCNC2=CC=C1F
reactant | TBTU | 3.4 mmol, 1.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | potassium carbonate | 200 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-chloro-pyridin-4-yl)-(4,5-difluoro-2,3-dihydro-indol-1-yl)-methanone | ClC1=NC=CC(=C1)C(=O)N1CCC2=C(C(=CC=C12)F)F | C14H9ClF2N2O
